US05231103
N-[4-(Quinolin-2-yl-methoxy)phenyl-cyclohexyl]methyl-N-hydroxyurea
0.94 g (8.13 mmol) of trimethylsilyl isocyanate is added dropwise under an argon atmosphere at room temperature to a solution of 2.7 g (7.45 mmol) of N-[4-(quinolin-2-yl-methoxy)phenyl-cyclohexyl]methyl-hydroxylamine in 25 ml of dioxane p.a. The reaction mixture is heated at 100° C. under an argon atmosphere for 2.5 h, cooled to room temperature and treated with saturated ammonium chloride solution. It is extracted several times with ether, and the organic phase is dried over sodium sulphate and concentrated in vacuo. The product is obtained after column chromatography on silica gel using dichloromethane/methanol (9:1).

reactant | trimethylsilyl isocyanate | 8.13 mmol, 0.94 g | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | N-[4-(quinolin-2-yl-methoxy)phenyl-cyclohexyl]methyl-hydroxylamine | 7.45 mmol, 2.7 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C1(CCCCC1)CNO | C23H26N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dichloromethane methanol | ClCCl.CO
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | N-[4-(Quinolin-2-yl-methoxy)phenyl-cyclohexyl]methyl-N-hydroxyurea | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C1(CCCCC1)CN(C(=O)N)O | C24H27N3O3
